US04371526
20 g. of (+)-4,5-Dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid is added at room temperature to a solution of 25 g. of thionyl chloride in 150 ml. of benzyl alcohol (prepared by adding the thionyl chloride to the benzyl alcohol at -5°) and allowed to stir for 48 hours. Hydrochloric acid is removed in vacuo and the remaining solution is poured into 250 ml. of anhydrous ether. The separated product is collected, washed with fresh ether, and dried to give (+)-4,5-dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid, phenylmethyl ester, hydrochloride (1:1).

reactant | (+)-4,5-Dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid | C1(=CC=CC=C1)C1=NNC(C1)C(=O)O | C10H10N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | (+)-4,5-dihydro-3-phenyl-1H-pyrazole-5-carboxylic acid, phenylmethyl ester, hydrochloride | Cl.C1(=CC=CC=C1)C1=NNC(C1)C(=O)OCC1=CC=CC=C1 | InChI=1S/C17H16N2O2.ClH/c20-17(21-12-13-7-3-1-4-8-13)16-11-15(18-19-16)14-9-5-2-6-10-14;/h1-10,16,19H,11-12H2;1H
